US07842832B2
3.b Ethyl (2Z)-3-amino-2-cyano-4-ethyl-2-hexenoate
118.2 g (0.4 mol) of ethyl 2-cyano-3-[(pivaloyl)oxy]-4-ethyl-2-hexenoate were dissolved in acetonitrile and cooled to 10° C. At 10-15° C., 112 g (0.8 mol) of 25% strength ammonia solution were then added dropwise, and the mixture was stirred at 15° C. for 3 h. The organic phases is [sic] washed, dried and concentrated. Recrystallization with diisopropyl ether gave 57.5 g (68% of theory) of the title compound (m.p. 87° C.).

reactant | ethyl 2-cyano-3-[(pivaloyl)oxy]-4-ethyl-2-hexenoate | 0.4 mol, 118.2 g | C(#N)C(C(=O)OCC)=C(C(CC)CC)OC(C(C)(C)C)=O | C16H25NO4
reactant | ammonia | N | H3N
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl (2Z)-3-amino-2-cyano-4-ethyl-2-hexenoate | N\C(=C(/C(=O)OCC)\C#N)\C(CC)CC | C11H18N2O2
